US06335451B1
a) Ethyl 1-[[2′-(Aminosulfonyl)(1,1′-biphenyl)-4-yl]methyl]-2-butyl-1-H-imid-azole-5-carboxylate
244 mg of ethyl 1-[[2′-(aminosulfonyl)(1,1′-biphenyl)-4-yl]methyl]-2-butyl-4-(methylthio)-1-H-imidazole-5-carboxylate (J. Med. Chem. 1995, 38, 2357) are dissolved in 10 ml of ethanol and 200 mg of Raney nickel are added. The mixture is then refluxed for 6 h, a further 200 mg of Raney nickel are added and it is again refluxed for 3 h. The residue is filtered off and the solvent is removed in vacuo. 200 mg of a colorless oil are obtained.

reactant | ethyl 1-[[2′-(aminosulfonyl)(1,1′-biphenyl)-4-yl]methyl]-2-butyl-4-(methylthio)-1-H-imidazole-5-carboxylate | 244 mg | NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C(=O)OCC)SC)CCCC | C24H29N3O4S2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Raney nickel | 200 mg | [Ni] | Ni
catalyst | Raney nickel | 200 mg | [Ni] | Ni
product | Ethyl 1-[[2′-(Aminosulfonyl)(1,1′-biphenyl)-4-yl]methyl]-2-butyl-1-H-imid-azole-5-carboxylate | 200 mg | NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC=C1C(=O)OCC)CCCC | C23H27N3O4S
